US08049012B2
3,4-Dichloroaniline (364 mg, 2.2 mmol), sodium triacetoxyborohydride (889 mg, 4.20 mmol) and acetic acid (0.24 mL, 4.20 mmol) were added to a solution of 9-oxo-3-aza-spiro[5.5]undecane-3-carboxylic acid tert-butyl ester (561 mg, 2.10 mmol) in 1,2-dichloroethane (30 mL) with crunched 4A mol sieves (10 g). The mixture was stirred a room temperature over night. Additional 4A mol sieves (12 g) and sodium triacetoxyborohydride (445 mg) was added and the mixture was stirred over night. The reaction was quenched with water and 5% citric acid was added. The mixture was filtered through kieselguhr and the filtrated was evaporated until only the aqueous layer remained. The aqueous layer was extracted with ethyl acetate (3×50 mL) and the combined organic phases were washed with brine, dried with sodium sulphate, filtered and evaporated to give the crude product. Flash chromatography (ethyl acetale/heptane) gave 9-(3,4-dichloro-phenylamino)-3-aza-spiro[5.5]undecane-3-carboxylic acid tert-butyl ester (258 mg, 0.624 mmol, 30%).

reactant | 3,4-Dichloroaniline | 2.2 mmol, 364 mg | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
reactant | sodium triacetoxyborohydride | 4.20 mmol, 889 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 4.20 mmol, 0.24 mL | C(C)(=O)O | C2H4O2
reactant | 9-oxo-3-aza-spiro[5.5]undecane-3-carboxylic acid tert-butyl ester | 2.10 mmol, 561 mg | C(C)(C)(C)OC(=O)N1CCC2(CC1)CCC(CC2)=O | C15H25NO3
reactant | sodium triacetoxyborohydride | 445 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 30 mL | ClCCCl | C2H4Cl2
product | 9-(3,4-dichloro-phenylamino)-3-aza-spiro[5.5]undecane-3-carboxylic acid tert-butyl ester | 0.624 mmol, 258 mg, 30% | C(C)(C)(C)OC(=O)N1CCC2(CC1)CCC(CC2)NC2=CC(=C(C=C2)Cl)Cl | C21H30Cl2N2O2
